US08334287B2
d) 5-Methoxy-2-methyl-2H-pyridazin-3-one
A solution of 3.90 g (22.34 mmol) of 4-chloro-5-methoxy-2-methyl-2H-pyridazin-3-one and 3.74 ml (2.71 g, 26.8 mmol) of triethylamine in 60 ml of ethanol was hydrogenated at atmospheric pressure over 950 mg (0.894 mmol) of 10% palladium on charcoal for 20 h at 55° C. The suspension was filtered hot and the catalyst was washed three times with 10 ml of ethanol. The filtrate was concentrated in vaccuo, and the residue was taken up in 70 ml of methylene chloride, which was washed four times with 20 ml of water, dried over magnesium sulfate and concentrated to yield 2.79 g (19.9 mmol, 89%) of the title compound as a crystalline white solid, MS: 141.2 (M+H+).

reactant | 4-chloro-5-methoxy-2-methyl-2H-pyridazin-3-one | 22.34 mmol, 3.90 g | ClC=1C(N(N=CC1OC)C)=O | C6H7ClN2O2
reactant | triethylamine | 26.8 mmol, 3.74 ml, 2.71 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.894 mmol, 950 mg | [Pd] | Pd
product | 5-Methoxy-2-methyl-2H-pyridazin-3-one | 19.9 mmol, 2.79 g, 89% | COC1=CC(N(N=C1)C)=O | C6H8N2O2
